US07511041B2
A mixture of 2-(4,5-dihydro-1H-imidazol-2-yl)aniline hydrobromide (50.0 mg, 0.207 mmol) and manganese dioxide (170 mg, 1.96 mmol) in N,N′-dimethylpropylenurea (2.0 mL) was heated at 150. (bath temp.). After 1 hour, the reaction mixture was cooled to room temperature, poured into a solution of hydroxylamine hydrochloride (0.5 g) in water (50 mL), and the resulting mixture was extracted with ethyl acetate. The separated organic layer was washed with brine, dried over magnesium sulfate, filtered, concentrated under reduced pressure. The crude residue was triturated with isopropylether, and the precipitate was removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by preparative thin layer chromatography (silica-gel, ethyl acetate as the eluent) to give 2-(1H-imidazol-2-yl)aniline (20 mg, 61% yield).

reactant | 2-(4,5-dihydro-1H-imidazol-2-yl)aniline hydrobromide | 0.207 mmol, 50.0 mg | Br.N1C(=NCC1)C1=C(N)C=CC=C1
reactant | hydroxylamine hydrochloride | 0.5 g | Cl.NO
solvent | water | 50 mL | O | H2O
catalyst | manganese dioxide | 1.96 mmol, 170 mg | [O-2].[O-2].[Mn+4]
product | 2-(1H-imidazol-2-yl)aniline | 20 mg, 61% yield | N1C(=NC=C1)C1=C(N)C=CC=C1 | C9H9N3
